US04749813
61 g of 2-nitro-5-ethylbenzotrifluoride were reduced analogously to Example 4 by means of iron. 52 g of 2-trifluoromethyl-4-ethylaniline (boiling point: 96°-8° C./20 mbar, nD20 : 1.4788) are obtained.

reactant | 2-nitro-5-ethylbenzotrifluoride | 61 g | [N+](=O)([O-])C1=C(C=C(C=C1)CC)C(F)(F)F | C9H8F3NO2
catalyst | iron | [Fe] | Fe
product | 2-trifluoromethyl-4-ethylaniline | 52 g | FC(C1=C(N)C=CC(=C1)CC)(F)F | C9H10F3N
